US08912169B2
Step 2: Synthesis of (R)-3-(2-(cis-4-aminocyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from 3-((2R)-2-(2-(cis-4-(tert-butoxycarbonylamino)cyclohexyl)acetamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoic acid and BCl3 following the procedure described in Step 2 of Example 1. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 347 (MH)+.

reactant | 3-((2R)-2-(2-(cis-4-(tert-butoxycarbonylamino)cyclohexyl)acetamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoic acid | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)CC(=O)N[C@@H](CC=1C(=C(C(=O)O)C=CC1)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C | C33H49BN2O8
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-3-(2-(cis-4-aminocyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | N[C@H]1CC[C@H](CC1)CC(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C17H23BN2O5
